US07217697B2
4-[2-(2,5-Dimethylbenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
To a solution of 4-[2-(2,5-dimethylbenzyloxy)benzyl]-5-isopropyl-1,2-dihydropyrazol-3-one (152 mg) in N,N-dimethylformamide (1 mL) was added sodium hydride (60%, 18 mg), and the mixture was stirred at room temperature for 15 minutes. To the reaction mixture was added a solution of acetobromo-α-D-glucose (214 mg) in N,N-dimethylformamide (1 mL), and the resulting mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on aminopropyl silica gel (eluent: ethyl acetate/hexane=1/1-ethyl acetate) to give 4-[2-(2,5-dimethylbenzyloxy)benzyl]-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole. To a solution of 4-[2-(2,5-dimethylbenzyloxy)benzyl]-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole in tetrahydrofuran (1 mL) and methanol (0.5 mL) was added sodium methoxide (28% methanol solution, 0.400 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was neutralized with 2 mol/L hydrochloric acid and concentrated under reduced pressure, and the residue was purified by chromatography on silica gel (eluent: dichloromethane/methanol=10/1–5/1) to give the title compound (33 mg).

reactant | 4-[2-(2,5-dimethylbenzyloxy)benzyl]-5-isopropyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | CC1=C(COC2=C(CC=3C(=NNC3C(C)C)O[C@H]3[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O3)COC(C)=O)C=CC=C2)C=C(C=C1)C | C36H44N2O11
reactant | sodium methoxide | 0.400 mL | C[O-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | methanol | 0.5 mL | CO | CH4O
product | 4-[2-(2,5-Dimethylbenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | 33 mg | CC1=C(COC2=C(CC=3C(=NNC3C(C)C)O[C@H]3[C@H](O)[C@@H](O)[C@H](O)[C@H](O3)CO)C=CC=C2)C=C(C=C1)C | C28H36N2O7
